*   SRC: E:\tmp\get_coord\comb\t00s\gsoln\xyz.got.s1.apr
*  PROG: APR2NET
*RUN BY: tianyf @ TYF [Intel64 Family 6 Model 37 Stepping 5, GenuineIntel]
*RUN AT: Microsoft Windows x86
*RUN ON: Fri Apr 13 02:05:47 2012 [UTC]
*****************************************************************************************************************************
* Datum:  WGS84
* Format:  V30
* Transfered from:   E:\tmp\get_coord\comb\t00s\gsoln\xyz.got.s1.apr
* Time:  
* Operator:  
*
*  site    full-name      latitude        longitude         height       u       v       w    epoch       t1        t2
 AB08_GPS  site_log  N60 23  5.393313 W166 12  3.085663     26.52140  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ABVI_GPS  site_log  N18 43 46.862647 W 64 19 56.946325    -35.60305  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 AC44_GPS  site_log  N61 14 31.820855 W149 34  1.653574    832.16399  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 AC78_GPS  site_log  N63  6 48.567537 W142  1 40.578158    643.73399  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ACHO_GPS  site_log  N 7 24 53.031131 W 80 10 23.183636     35.59245  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ALG2_GPS  site_log  N45 57 18.899584 W 78  4 15.147667    202.22918  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ALG3_GPS  site_log  N45 57 17.303610 W 78  4 21.838128    207.33470  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ALLG_GPS  site_log  N39 39 13.919081 W 78 43 50.523839    174.50085  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 AMU2_GPS  site_log  S89 59 55.396395 W 95 27 50.266701   2818.75290  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ATLI_GPS  site_log  N59 35 22.133985 W133 42 52.100258    792.86962  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BACK_GPS  site_log  S74 25 49.589060 W102 28 41.468517     33.17741  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BADG_GPS  site_log  N51 46 10.937597 E102 14  5.950149    811.41620  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BENN_GPS  site_log  S84 47 11.249062 W116 27 35.304095   1416.36229  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BERP_GPS  site_log  S74 32 45.369059 W111 53  4.501668    313.12114  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BILB_GPS  site_log  N68  3 55.126098 E166 27 12.178719    315.77865  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BLUF_GPS  site_log  S46 35  6.219319 E168 17 31.496035    124.63253  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 BYSP_GPS  site_log  N18 24 28.212968 W 66  9 40.316707     49.22997  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CABA_GPS  site_log  N10 14 16.352167 W 85 20 36.715794     26.96665  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CAKO_GPS  site_log  N46 23 13.569504 E 16 26 20.681851    222.07995  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CCJ2_GPS  site_log  N27  4  3.115584 E142 11 42.098254    104.23677  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CHES_GPS  site_log  N39 57  5.951422 W 75 36  1.169595    108.17767  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 CN15_GPS  site_log  N26 33 23.960880 W 78 41 35.101133    -27.53977  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 CN33_GPS  site_log  N 8 29 14.062852 W 80 19 36.003984     76.80555  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 CN40_GPS  site_log  N12 10 48.157131 W 68 57 28.852285     33.32695  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 DEFI_GPS  site_log  N41 16 37.304012 W 84 24 48.875087    181.93610  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 EPZA_GPS  site_log  N10  8 27.387180 W 85 34  5.026443    668.39226  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 FLRS_GPS  site_log  N39 27 13.808863 W 31  7 34.999715     80.20359  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 FUNC_GPS  site_log  N32 38 52.616390 W 16 54 27.413183     78.42164  0.0000  0.0000  0.0000 2012.0300 1900.0000 2500.0000
 G102_GPS  site_log  N42  4 43.626689 E139 29 21.105406     42.24874  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G103_GPS  site_log  N40 53 50.968999 E140 51 33.160905     44.25921  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G105_GPS  site_log  N38 33 48.009622 E139 32 45.519177     45.54213  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G107_GPS  site_log  N35  7 45.778332 E140 14 58.040636     39.44809  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G108_GPS  site_log  N35  9 36.555535 E139 36 55.924461     42.88700  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G109_GPS  site_log  N37 48 53.125479 E138 16 52.544787     44.81515  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G110_GPS  site_log  N37 21 23.561423 E138 30 30.682764     45.59976  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G111_GPS  site_log  N37 24 20.622535 E136 54  1.185509     43.91519  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G112_GPS  site_log  N36 15 16.465552 E136  8 55.904004     42.67818  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G113_GPS  site_log  N34 53 43.746316 E139  7 58.655010     47.21847  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G114_GPS  site_log  N34 48 24.834400 E138 45 51.128270     47.43624  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G115_GPS  site_log  N34 52 14.412058 E138 19 38.693025     46.51771  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G116_GPS  site_log  N34 54 14.276006 E136 49 25.837738     47.04324  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G117_GPS  site_log  N34  8 38.923801 E135 11 29.537564     45.75591  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G118_GPS  site_log  N35 35 37.269710 E134 18 57.363434     42.53459  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G119_GPS  site_log  N34 37 39.316496 E131 36 16.733004     39.34766  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G120_GPS  site_log  N33 20  0.599409 E133 14 36.607767     43.20410  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G121_GPS  site_log  N33 28 23.086698 E129 50 57.459278     39.06473  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G122_GPS  site_log  N32 25 43.038602 E131 40 10.565276     36.53483  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G201_GPS  site_log  N45 24 28.148601 E141 41  7.200184     31.69047  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G202_GPS  site_log  N44  1  9.880043 E144 17  8.853202     36.49582  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G203_GPS  site_log  N42 58 32.050823 E144 22 17.036751     35.96159  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G204_GPS  site_log  N41 46 53.961346 E140 43 28.330223     39.56253  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G206_GPS  site_log  N34 55  7.650089 E139 49 29.711028     45.58910  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G207_GPS  site_log  N36 45 43.825960 E137 13 28.483607     44.22570  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G208_GPS  site_log  N33 28 33.409786 E135 46 23.488239     46.40539  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G209_GPS  site_log  N34 53 50.322666 E132  3 58.374432     39.55162  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G210_GPS  site_log  N32 44  6.422947 E129 51 58.318538     38.55528  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 G211_GPS  site_log  N31 34 37.084966 E131 24 33.498695     36.90878  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HAMT_GPS  site_log  S37 48 24.303669 E175  6 33.114942     69.39503  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HIKB_GPS  site_log  S37 33 39.740990 E178 18 12.072032    107.27417  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HLOU_GPS  site_log  S21 16 37.369022 E165 37 38.368529     70.64191  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 HRMN_GPS  site_log  N33 18 29.916812 E 35 47  7.619193   2091.70517  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 ISBA_GPS  site_log  N33 20 29.097750 E 44 26 18.253700     72.37845  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KAIK_GPS  site_log  S42 25 31.668421 E173 32  1.156835    314.76165  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KAPT_GPS  site_log  S40 51 39.231157 E174 54 35.144054    367.55291  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 KORO_GPS  site_log  S40 24 33.589209 E175 25 26.593650     51.52113  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LCAP_GPS  site_log  S21 28 49.237657 E165 22 31.718332    147.28693  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LCK2_GPS  site_log  N26 54 45.212494 E 80 57 21.493679     53.14632  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LCKI_GPS  site_log  N26 54 44.780278 E 80 57 21.212901     53.10154  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LEXA_GPS  site_log  S45 13 51.649693 E169 18 29.681662    331.84043  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LKTA_GPS  site_log  S42 47  0.123729 E172 15 58.787681    712.96494  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LPIL_GPS  site_log  S20 55  4.743727 E167 15 49.617028     73.18400  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LPLY_GPS  site_log  S73  6 40.015653 W 90 17 58.081100    127.49946  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 LPOC_GPS  site_log  N47 20 29.018125 W 70  0 30.809356    103.27430  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MAHO_GPS  site_log  S38 30 46.817357 E174 51 14.715854    302.47496  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MATW_GPS  site_log  S38 20  1.840413 E177 31 34.333639    646.22733  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MAUA_GPS  site_log  S19 54  8.069998 E 23 31 42.231467    960.76043  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MAVL_GPS  site_log  S45 21 59.452155 E168  7  5.556793    592.44918  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MCAR_GPS  site_log  S76 19 19.905981 W144 18 12.660231    964.87183  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MCHN_GPS  site_log  N47 57 40.806821 W 84 54  3.072238    152.03737  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MCON_GPS  site_log  N39 39 39.060307 W 81 49 45.146004    271.42226  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MFKG_GPS  site_log  S25 48 18.055106 E 25 32 23.900465   1310.90730  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MONG_GPS  site_log  S15 15 14.826309 E 23  9  2.659188   1061.68134  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MTWA_GPS  site_log  S10 16  8.385798 E 40 12  0.561716    -19.83235  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 MZUZ_GPS  site_log  S11 25 30.350815 E 34  0 21.411565   1261.20161  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NLSN_GPS  site_log  S41 11  0.614475 E173 26  1.425443    302.14963  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 NMEA_GPS  site_log  S22 15 53.232783 E166 26 33.058587     71.19804  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P714_GPS  site_log  N44 53 45.055560 W110 44 39.925039   2250.48112  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P794_GPS  site_log  N39 50 44.447060 W122 57 49.526036   2088.62068  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P795_GPS  site_log  N34 30 29.244648 W116  8 53.255496   1095.31606  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P796_GPS  site_log  N32 29 52.339463 W114 45 33.654741     10.17541  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P798_GPS  site_log  N43 47 45.677487 W110 57 38.131713   2450.55116  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 P800_GPS  site_log  N34  1 18.082612 W118 20 56.646280     -2.28699  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PAEK_GPS  site_log  S41  1 18.345014 E174 57  7.481911    443.21572  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PALX_GPS  site_log  N31 33 32.819566 W116  3 49.629389   1545.48068  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PARW_GPS  site_log  S41 22 53.566986 E175 25 36.977521    556.82046  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PBHR_GPS  site_log  N35 42 32.229822 W121 16 20.685770    152.23171  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PBR2_GPS  site_log  N11 38 16.102244 E 92 42 44.084039    -22.44095  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PBRI_GPS  site_log  N11 38 16.007732 E 92 42 43.691038    -22.56781  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PDME_GPS  site_log  S20 56 16.366860 E165 21  4.755749     98.38672  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PEBO_GPS  site_log  S20 23 32.952310 E164 34 51.599124     86.01732  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PHJX_GPS  site_log  N32 29 24.199531 W115 33  1.621382    105.42929  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PJZX_GPS  site_log  N32 25  1.225142 W115 53  1.429099   1335.73045  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PLPX_GPS  site_log  N31 35 18.961447 W115  9  4.592583    813.49076  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PLTX_GPS  site_log  N31 48 58.822334 W115 25 51.216341    236.49718  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PMBT_GPS  site_log  S21  7  7.051222 E164 54  4.930381     93.82482  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PODG_GPS  site_log  N43 19 39.047661 E 79 29  5.671540   1287.12807  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PORE_GPS  site_log  N45 13 33.662985 E 13 35 42.169176     66.19911  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 POUM_GPS  site_log  S20 13 53.941573 E164  1 25.593371     72.25553  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 POZE_GPS  site_log  N45 19 58.163361 E 17 40 31.673998    212.50219  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PSTX_GPS  site_log  N31 18 47.234051 W115 50  7.557168    902.12564  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PTAX_GPS  site_log  N32 22 38.950902 W115 27 22.806294   1060.37529  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PTEX_GPS  site_log  N32 17 18.427084 W116 31 16.446465    340.59709  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 PUKE_GPS  site_log  S38  4 17.086350 E178 15 26.497910    468.06313  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RDJH_GPS  site_log  N60 35 26.749080 W152 48 18.866897   1422.41441  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RDWB_GPS  site_log  N60 29 12.502992 W152 50 37.087157   1647.03633  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RGWI_GPS  site_log  S37 31  5.071862 E177 10 39.985404    292.36008  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RIPA_GPS  site_log  S39  9 55.874609 E176 29 33.043896    734.02489  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RNO1_GPS  site_log  N39 32 16.466396 W119 53  8.938201   1530.63973  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 RYMD_GPS  site_log  N46 41  2.866899 W123 43 49.484943    -10.43888  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SA39_GPS  site_log  S12 25 28.526359 E130 53 29.667163     84.92967  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SA40_GPS  site_log  S 0 31 14.219585 E166 54 57.733947     50.03886  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SA42_GPS  site_log  S 2  3 39.173923 E147 25 31.061913     85.85376  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SHE2_GPS  site_log  N46 13 14.489017 W 64 33  7.241075    -15.28615  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SHEE_GPS  site_log  N51 26 44.454825 E  0 44 36.285286     53.32025  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SIDN_GPS  site_log  N40 18 37.294092 W 84 10 15.933831    292.22423  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SKMA_GPS  site_log  N45 41 39.278688 W121 53  2.258800     43.04224  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SMAI_GPS  site_log  N47 31 24.857727 W122 20 42.211795    113.45849  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SMST_GPS  site_log  N33 34 40.277636 E135 56 13.035504     97.53383  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SPIT_GPS  site_log  N59 36 28.984965 W151 25 37.157067     19.85670  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SPKN_GPS  site_log  N47 37 39.588845 W117 30  9.287354    694.53387  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
 SRB1_GPS  site_log  N37 52 27.687930 W122 16  1.069195     54.66625  0.0000  0.0000  0.0000 2012.0310 1900.0000 2500.0000
